US09428503B2
Intermediate A4: 6-Bromo-4-(oxan-4-ylamino)quinoline-3-carboxylic acid
On a larger scale, ethyl 6-bromo-4-(oxan-4-ylamino)quinoline-3-carboxylate (1925 g, 5.08 mol) was charged to the vessel with EtOH (12.5 L). 2M NaOH (12.5 L, 25.03 mol) was then added with an exotherm from 22-35° C. over the 20 minute addition. The batch was heated to 70-80° C. for 17 h at which point HPLC indicated 98.3% product and <1% starting material. The batch was concentrated in vacuo to remove EtOH and returned to the vessel. A 2M HCl solution (13 L) was then added until pH 5-6 was obtained maintaining a batch temperature below 50° C. An exotherm from 20-32° C. was observed over the 40 minute addition. A precipitate formed which was slurried at 20-25° C. for 1.5 h before filtration, washing with water until pH neutral (3×7 L). The collected solid was dried under vacuum at 70° C. to give 1794 g of desired material. Analytical data was consistent with that obtained from previous batches.

reactant | ethyl 6-bromo-4-(oxan-4-ylamino)quinoline-3-carboxylate | 5.08 mol, 1925 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)OCC)NC1CCOCC1 | C17H19BrN2O3
reactant | NaOH | 25.03 mol, 2M, 12.5 L | [OH-].[Na+]
solvent | EtOH | 12.5 L | CCO | C2H6O
product | 6-Bromo-4-(oxan-4-ylamino)quinoline-3-carboxylic acid | 1794 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)O)NC1CCOCC1 | C15H15BrN2O3
